tb_loop_blockA__g15_cf150p_cm470p_r1.69k.cir - L40 ESPLORAZIONE da tb_loop_blockA.cir, RG0L40 FB 0 7.87k; alter c137 = 150p; alter c124 = 470p; alter r128 = 1.69k
* Prima riga = titolo (docs/limitations.md #10).
*
* WHAT CHANGED IN L17. Until L17 block A drove the attenuator AND the two
* fixed outputs straight from its feedback node (ADR-008). This deck still
* carried the values ADR-008 was first written with - 100 ohm, 2.2 uF, 50 k -
* which the addenda had superseded (NC-002). Since ADR-023 each fixed output
* has its own buffer, so block A's output node carries:
*   - the 10 k stepped attenuator (manopola al massimo: il carico piu' pesante);
*   - the INPUTS of two buffers (a JFET gate behind 100 ohm, pF);
*   - the harness wiring to the front-panel attenuator: CWIRE, swept.
* The buffers are instantiated from gain_block.subckt with their own fixed
* loads, so what block A sees is the real input of a real block, not a guess.
*
* WHAT CHANGED IN L16 (ADR-027). The common trim sits on the variable-output
* branch: block A OUT -> ladder -> T1/T2 contacts -> harness -> attenuator. The
* buffers stay on OUT, before the trim. The first loop below is L27's, with the
* trim ABSENT (ladder cut at 1e12, contacts open): its rows and curves keep
* their meaning. The SECOND loop moves the attenuator and CWIRE behind the trim
* contacts and measures the three positions with the two candidate ladders of
* data/2026-09-14/L16/esplorazione/script/trim_ramo_e96.py, load 1 only:
*   cand 1  549 / 294 / 294     cand 2  845 / 464 / 464
* At 0 dB block A carries the whole ladder in parallel with the attenuator (the
* heaviest load) and CWIRE straight on its output through 0.1 ohm; at -6 and
* -12 dB the harness sits behind R1. New nodes are named TRM*, which the block
* does not use (docs/limitations.md #24). Table: tb_loop_blockA_trim.csv.
*
* TWO LOADS, selected by resistors (1 mohm / 1e12), same deck:
*   load 1  NUOVO   - ADR-023, as above.
*   load 2  CANONICO ADR-008 - the load NC-002 measured by hand: 47 ohm +
*           4.7 uF + 470 k on each fixed output, straight on OUT, 50 k at each
*           jack. It is here as the CONTROL: at the L17 values (C137 22 p) it
*           reproduced NC-002 within 1 deg; since L12 it tracks load 1.
*
* CWIRE: 1 fF to 4.7 nF straight on the output node. Block A drives no cable to
* another apparatus: its "cable" is the harness to the front-panel attenuator.
* ADR-024 (L12) judges block A against a REALISTIC harness capacitance, taken as
* <= 1 nF (a few tens of pF expected for <= 50 cm): the verdict is the minimum
* over CWIRE <= 1 nF. The 2.2 nF and 4.7 nF rows stay as information.
*
* SOURCE (L12). Block A's source is the input connector: K11 (~1.5 ohm) or the
* phono cathode follower (430 ohm, V1). RSRCA sweeps 1 mohm and 430 ohm; L12
* found 430 ohm the worse. Node VSRCN, not SRC (docs/limitations.md #24).
*
* LOOP BREAK: as in tb_loop.cir. R109 (the FB-side gate stopper) is opened
* and replaced by RBRK + VINJ in series; T = v(fb)/v(g2).
*
* Gain relay not fitted (ADR-006): unity gain, RG left on 1 G.
* Manufacturer device models since L39 (NC-017); see tb_loop.cir header.

.include /Users/roberto/EDA/.claude/worktrees/L40/models/jfet/lsk489.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_npn/mmbt5551.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_pnp/mmbt5401.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_npn/mje15032.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_pnp/mje15033.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/diodes/1n4148.lib
* L39 (NC-017): every active device in this deck is a vendor model from
* models/, each next to its .provenance.json:
*   LSK489   - vendor model LSK489A, the published corner sample (I_DSS
*              2.59 mA, below the group-B window of ADR-031)
*   LS352    - vendor model LS350 (ADR-018), included on the next line
*   MMBT5551 - vendor model, Diodes Inc. (ADR-017)
*   MMBT5401 - vendor model, Diodes Inc. (ADR-017)
*   MJE15032 - vendor model Qmje15032, onsemi (NC-024, NC-025)
*   MJE15033 - vendor model Qmje15033, onsemi (NC-025)
*   1N4148   - vendor model D1N914, onsemi (docs/limitations.md #20)
* Only the LSK489A carries KF: 1/f noise is on the input pair and nowhere
* else. No model carries part-to-part spread.
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_pnp/ls350.lib
* the block under test, flat (its devices are top-level: R109 can be altered)
.include /Users/roberto/EDA/.claude/worktrees/L40/spice/preamp/gain_block_flat.inc
* the two buffers it drives, as subcircuits
.include /Users/roberto/EDA/.claude/worktrees/L40/spice/preamp/gain_block.subckt

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VIN VSRCN 0 DC 0
RSRCA VSRCN IN 1m

* R_g / relay not fitted on block A
RRG RG 0 1G
RRG10  RG10 0 1G

RBRK FB NBRK 100
VINJ NBRK G2 DC 0 AC 1

* --- harness capacitance and attenuator, both loads ---
CWIRE  OUT 0 1f
RATT   OUT 0 10k

* --- L16: the trim on the variable-output branch, ABSENT by default ---
RTRL1  OUT TRMT6 1e12
RTRL2  TRMT6 TRMT12 294
RTRL3  TRMT12 0 294
RTR1R  OUT TRMATT 1e12
RTR1S  TRMC2 TRMATT 1e12
RTR2R  TRMT6 TRMC2 1e12
RTR2S  TRMT12 TRMC2 1e12
CWIRET TRMATT 0 1f
RATTT  TRMATT 0 1e12

* --- load 1: the two buffers of ADR-023, each with its fixed output ---
RSELN1 OUT BIN1 1m
RSELN2 OUT BIN2 1m
XF1 BIN1 OUTF1 FBF1 RGF1 RG10F1 VPLUS VMINUS GAINBLOCK
RRGF1 RGF1 0 1G
RRG10F1 RG10F1 0 1G
XF2 BIN2 OUTF2 FBF2 RGF2 RG10F2 VPLUS VMINUS GAINBLOCK
RRGF2 RGF2 0 1G
RRG10F2 RG10F2 0 1G
RSEP1 OUTF1 FIX1 47
CFIX1 FIX1 J1 4.7u
RBL1  J1 0 470k
RJ1   J1 0 10k
RSEP2 OUTF2 FIX2 47
CFIX2 FIX2 J2 4.7u
RBL2  J2 0 470k
RJ2   J2 0 50k

* --- load 2: the canonical ADR-008 load NC-002 measured (control) ---
RSELV1 OUT VFIX1A 1e12
RSELV2 OUT VFIX2A 1e12
RVSEP1 VFIX1A VFIX1 47
CVFIX1 VFIX1 VJ1 4.7u
RVBL1  VJ1 0 470k
RVJ1   VJ1 0 50k
RVSEP2 VFIX2A VFIX2 47
CVFIX2 VFIX2 VJ2 4.7u
RVBL2  VJ2 0 470k
RVJ2   VJ2 0 50k

* L40: righe di netlist in piu' (varianti.py)
RG0L40 FB 0 7.87k
.control
* L40: variante
alter c137 = 150p
alter c124 = 470p
alter r128 = 1.69k
show c137 : capacitance
show c124 : capacitance
show r128 : resistance
show rg0l40 : resistance
* --- wrdata (L5): una curva di anello PER ITERAZIONE ------------------
* NOMI PARAMETRIZZATI: un `$var` in un nome di file non si chiude da solo -
* ngspice fa entrare nel nome della variabile anche `.`, `-` e `_`. Un `$`
* invece TERMINA il nome: la forma che funziona e' `$cw$t` con t = ".txt".
* Misurato con una sonda in L5, non dedotto.
*
* Solo il carico 1 scrive le curve:
*   sorgente 1 mohm: tb_loop_blockA_<cw>.txt        - i nomi di prima
*   sorgente 430 ohm: tb_loop_blockA_src430_<cw>.txt
* il controllo stampa margine e attraversamento nel log e in tb_loop_blockA.csv
* (nessun wrdata produce quel nome, docs/limitations.md #25).
* Il secondo ciclo (L16, trim) non scrive curve: solo tb_loop_blockA_trim.csv.
*
* COLONNE delle curve (~801 righe, 1 Hz - 100 MHz, 100 punti/decade).
*   col0 = frequenza [Hz]   col1 = Tdb = |T| in dB
*   col2 = frequenza [Hz]   col3 = Tph = fase di T in GRADI
* Margine di fase = |Tph| dove Tdb attraversa lo zero (vedi tb_loop.cir).
*
* DOVE: dentro il ciclo, PRIMA del `destroy all` (docs/limitations.md #10).
* ---------------------------------------------------------------------
set t = .txt
alter r109 = 1G
set units = degrees
echo "carico,rsrc,cwire,fcross_hz,pm_deg,tdb_10hz" > tb_loop_blockA.csv
foreach ld 1 2
  if $ld = 1
    alter rseln1 = 1m
    alter rseln2 = 1m
    alter rselv1 = 1e12
    alter rselv2 = 1e12
  else
    alter rseln1 = 1e12
    alter rseln2 = 1e12
    alter rselv1 = 1m
    alter rselv2 = 1m
  end
  foreach rs 1m 430
    alter rsrca = $rs
    foreach cw 1f 47p 100p 220p 470p 1n 2.2n 4.7n
      alter cwire = $cw
      ac dec 100 1 100meg
      let T = v(fb)/v(g2)
      let Tdb = db(T)
      let Tph = ph(T)
      meas ac fcross when Tdb=0
      meas ac pmarg find Tph when Tdb=0
      meas ac tdc find Tdb at=10
      echo "BLOCK A  carico=$ld  rsrc=$rs  Cwire=$cw"
      print fcross pmarg tdc
      echo "$ld,$rs,$cw,$&fcross,$&pmarg,$&tdc" >> tb_loop_blockA.csv
      if $ld = 1
        if $rs = 1m
          let l40_nessuna_curva = 0
        else
          let l40_nessuna_curva = 0
        end
      end
      destroy all
    end
  end
end

* ---------------- L16: the trim on the variable-output branch ----------------
echo "cand,pos,rsrc,cwire,fcross_hz,pm_deg,tdb_10hz" > tb_loop_blockA_trim.csv
alter rseln1 = 1m
alter rseln2 = 1m
alter rselv1 = 1e12
alter rselv2 = 1e12
* the attenuator and the harness move behind the trim contacts
alter ratt = 1e12
alter cwire = 1f
alter rattt = 10k
foreach cand 1 2
  if $cand = 1
    set r1v = "549"
    alter rtrl2 = 294
    alter rtrl3 = 294
  end
  if $cand = 2
    set r1v = "845"
    alter rtrl2 = 464
    alter rtrl3 = 464
  end
  alter rtrl1 = $r1v
  foreach pos 0 6 12
    if $pos = 0
      alter rtr1r = 0.1
      alter rtr1s = 1e12
      alter rtr2r = 0.1
      alter rtr2s = 1e12
    end
    if $pos = 6
      alter rtr1r = 1e12
      alter rtr1s = 0.1
      alter rtr2r = 0.1
      alter rtr2s = 1e12
    end
    if $pos = 12
      alter rtr1r = 1e12
      alter rtr1s = 0.1
      alter rtr2r = 1e12
      alter rtr2s = 0.1
    end
    foreach rs 1m 430
      alter rsrca = $rs
      foreach cw 1f 47p 100p 220p 470p 1n 2.2n 4.7n
        alter cwiret = $cw
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "BLOCK A TRIM  cand=$cand  pos=$pos  rsrc=$rs  Cwire=$cw"
        print fcross pmarg tdc
        echo "$cand,$pos,$rs,$cw,$&fcross,$&pmarg,$&tdc" >> tb_loop_blockA_trim.csv
        destroy all
      end
    end
  end
end
.endc

.end
